US09227985B2
(4S)-2-(1-Acetylpiperidin-4-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-3,6-dihydropyridine-1(2H)-carboxylate (3 mg, 0.006 mmol) was dissolved in methanol (0.5 mL) at room temperature, followed by addition of 4.0 M hydrogen chloride in dioxane (0.5 mL, 2 mmol) [Aldrich, cat. #345547]. The resulting mixture was stirred at room temperature for 10 min. The solvents were removed under a flow of nitrogen gas. Purification by preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) afforded the title compound (1.8 mg, 70%). LCMS for C24H26O2N5 (M+H)+: calculated m/z=416.2. found 416.2.

reactant | tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-3,6-dihydropyridine-1(2H)-carboxylate | 0.006 mmol, 3 mg | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)C=2CCN(CC2)C(=O)OC(C)(C)C)C | C29H31N5O4
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | dioxane | 2 mmol, 0.5 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 0.5 mL | CO | CH4O
product | (4S)-2-(1-Acetylpiperidin-4-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 1.8 mg, 70% | C(C)(=O)N1CCC(CC1)C1=NC2=CC=C(C3=C2N1[C@H](CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C26H27N5O3
